US05196454
5-Acetylamino-2-furfurylamino-tetraline-hydrochloride
Starting from 2.03 g (0.01 mol) of 5-acetylamino-2-tetralone and 4.0 g (0.03 mol) of furfurylaminehydrochloride the title compound is obtained analogously to Example 4.1.11 in a yield of 2.1 g (65.4% of theory) and with a melting point of 296° C., which does not change after recrystallisation from methanol/ether.

reactant | 5-acetylamino-2-tetralone | 0.01 mol, 2.03 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | furfurylaminehydrochloride | 0.03 mol, 4.0 g | Cl.C(C1=CC=CO1)N
product | 5-Acetylamino-2-furfurylamino-tetraline-hydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)NCC1=CC=CO1 | InChI=1S/C17H20N2O2.ClH/c1-12(20)19-17-6-2-4-13-10-14(7-8-16(13)17)18-11-15-5-3-9-21-15;/h2-6,9,14,18H,7-8,10-11H2,1H3,(H,19,20);1H
